US04088785
A mixture of 32.1 g. (0.106 moles) of 1-(2,6-dichlorophenylamidino)-3-(t-butyl)urea and 200 ml of conc. hydrochloric acid is refluxed for 1/2 hour. The reaction mixture is cooled, filtered and washed with 10 ml of 1:1 HCl/H2O and dried. The product is then recrystallized from ethanol-ether to obtain (2,6-dichlorophenylamidino)urea hydrochloride.

reactant | 1-(2,6-dichlorophenylamidino)-3-(t-butyl)urea | 0.106 moles | ClC1=C(C(=CC=C1)Cl)NC(=N)NC(=O)NC(C)(C)C | C12H16Cl2N4O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | (2,6-dichlorophenylamidino)urea hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC(=N)NC(=O)N | InChI=1S/C8H8Cl2N4O.ClH/c9-4-2-1-3-5(10)6(4)13-7(11)14-8(12)15;/h1-3H,(H5,11,12,13,14,15);1H
